US07229996B2
Synthesis: Step 1. (R/S)-N′-(1-Benzyl-pyrrolidin-3-yl)-N′-(tert-butoxycarbonyl)-hydrazinecarboxylic acid tert-butyl ester:
To a stirred solution of 1-benzyl-pyrrolidin-3-one (500 mg, 2.9 mmol) in methanol (10 mL) was added hydrazinecarboxylic acid tert-butyl ester (380 mg, 2.9 mmol) followed by acetic acid (0.2 mL). The mixture was allowed to stir at room temperature for one hour, cooled to 0° C. and then p-toluene-4-sulfonic acid monohydrate (1.1 g, 6.0 mmol) was added, followed by NaBH3CN (200 mg, 3.18 mmol). When the hydrazine was all consumed, the reaction was quenched by saturated aq NaHCO3 (5.0 mL). Methanol was removed in vacuo and the residue was partitioned between dichloromethane and 15% aq NaOH. The organic layer was separated, and aqueous layer was extracted with dichloromethane once. The combined extracts were dried over Na2SO4 and concentrated to give an oil, which was dissolved in THF (15 mL). To this solution was added di-tert-butyl dicarbonate (932 mg, 4.35 mmol), and the mixture was allowed to stir at room temperature for four hours and heated at 65° C. for two hours. The reaction mixture was condensed and purified by flash chromatography on silica gel (50% ethyl acetate in hexanes) to give an oily product (500 mg, ˜40%).

reactant | 1-benzyl-pyrrolidin-3-one | 2.9 mmol, 500 mg | C(C1=CC=CC=C1)N1CC(CC1)=O | C11H13NO
reactant | hydrazinecarboxylic acid tert-butyl ester | 2.9 mmol, 380 mg | C(C)(C)(C)OC(=O)NN | C5H12N2O2
reactant | NaBH3CN | 3.18 mmol, 200 mg | [BH3-]C#N.[Na+]
reactant | hydrazine | NN | H4N2
reactant | di-tert-butyl dicarbonate | 4.35 mmol, 932 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 10 mL | CO | CH4O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | acetic acid | 0.2 mL | C(C)(=O)O | C2H4O2
product | (R/S)-N′-(1-Benzyl-pyrrolidin-3-yl)-N′-(tert-butoxycarbonyl)-hydrazinecarboxylic acid tert-butyl ester | 500 mg, ~40% | C(C)(C)(C)OC(=O)NN(C(=O)OC(C)(C)C)C1CN(CC1)CC1=CC=CC=C1 | C21H33N3O4
